US06423717B1
N-[4-Methoxy-3-(4-methyl-1-piperazinyl)phenyl]thiophene2-ylsulfonamide
A solution of thiophene-2-sulfonyl chloride (82 mg; 0.45 mmol) in acetone (2 ml) was added to a solution of 4-methoxy-3-(4-methylpiperazin-1-yl)aniline (100 mg; 0.45 mmol) in acetone (2 ml) and the mixture stood overnight at room temperature. The resultant crystalline solid was filtered off and washed with acetone, then diethyl ether, to afford the title compound as the hydrochloride salt. (153 mg; 84%). MS: m/z=368.

reactant | thiophene-2-sulfonyl chloride | 0.45 mmol, 82 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | 4-methoxy-3-(4-methylpiperazin-1-yl)aniline | 0.45 mmol, 100 mg | COC1=C(C=C(N)C=C1)N1CCN(CC1)C | C12H19N3O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | N-[4-Methoxy-3-(4-methyl-1-piperazinyl)phenyl]thiophene2-ylsulfonamide | COC1=C(C=C(C=C1)NS(=O)(=O)C=1SC=CC1)N1CCN(CC1)C | C16H21N3O3S2
